US04507498
A mixture of 6.0 g of (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester, 25 ml of bis(2-chloroethyl)ether and 2.2 g of anhydrous potassium carbonate in 150 ml of anhydrous acetone was stirred at reflux. After 24 hours, 2 g of potassium iodide and 50 ml of anhydrous dimethylformamide were added and reflux was continued. After 50 hours, 2.2 g of potassium carbonate and 2 g of potassium iodide were added and after 77 hours, 2.0 g of potassium carbonate was added. After a total reflux time of 108 hours, the reaction mixture was concentrated in vacuo and the residue was purified by high pressure liquid chromatography using 25% ethyl acetate-hexane to give 5.96 g (72% yield) of [4-acetyl-3-[2-(2-chloroethoxy)ethoxy]-2-propylphenoxy]acetic acid ethyl ester as an oil.

reactant | (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester | 6.0 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C15H20O5
reactant | bis(2-chloroethyl)ether | 25 ml | ClCCOCCCl | C4H8Cl2O
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [4-acetyl-3-[2-(2-chloroethoxy)ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 5.96 g, 72% yield | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCCl)CCC)=O | C19H27ClO6
